US04356313
This residual partially resolved [(5,6-dichloro-9a-methyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid (2.86 gm., 0.0118 mole) is treated with 1(-)cinchonidine (3.47 gm., 0.0118 mole) and the mixture dissolved in the minimum quantity of acetonitrile. After cooling for 48 hours, the salt that separates is removed by filtration and recrystallized twice from the minimum volume of acetonitrile. The pure salt is suspended in water (50 ml), treated with 6 normal hydrochloric acid (5 ml) and the precipitate that separates is removed by filtration and dried. This solid is recrystallized from a miture of tetrahydrofuran and ethyl ether to give the (-) enantiomer of [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid, m.p. 239°-241° C.,

reactant | [(5,6-dichloro-9a-methyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | 0.0118 mole, 2.86 gm | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)C)=O | C16H14Cl2O4
reactant | acetonitrile | C(C)#N | C2H3N
product | [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)CC)=O | C17H16Cl2O4
